US05688795
A solution of 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,3-trimethylbenzamide (70 mg, 0.17 mmol) in 0.5 mL of 5% methanol/methylene chloride was acidified with 0.6 mL of 1M hydrochloric acid in methanol and then ethyl acetate was added to give a precipitate. The supernatant was decanted and the precipitate was washed with ether, collected and dried to give 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,3-trimethylbenzamide hydrochloride (75 mg, 0.15 mmol). Anal.: Calcd. for C24H34 N4O2.(HCl)2.(H2O)0.5 : C, 58.53; H, 7.57; N, 11.38%; Found: C, 58.52; H, 7.68; N, 10.99%.

reactant | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,3-trimethylbenzamide | 0.17 mmol, 70 mg | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=C1C | C24H34N4O2
reactant | hydrochloric acid | 1M, 0.6 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol methylene chloride | 0.5 mL | CO.C(Cl)Cl
solvent | methanol | CO | CH4O
product | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,3-trimethylbenzamide hydrochloride | 0.15 mmol, 75 mg | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=C1C | InChI=1S/C24H34N4O2.ClH/c1-19-9-7-10-20(24(29)26(2)3)23(19)25-13-8-14-27-15-17-28(18-16-27)21-11-5-6-12-22(21)30-4;/h5-7,9-12,25H,8,13-18H2,1-4H3;1H
